US08685969B2
1. Methyl 6-(2-methoxyethoxy)-1H-indole-2-carboxylate
To a light brown, homogeneous solution of methyl 6-hydroxy-1H-indole-2-carboxylate (1.4862 g, 7.77 mmol) and 1-bromo-2-methoxyethane (0.731 mL, 7.77 mmol) in DMF (38.9 mL) under nitrogen was added cesium carbonate (2.53 g, 7.77 mmol). The reaction was heated to 55° C. and stirred overnight. The reaction was cooled to room temperature, diluted with EtOAc (200 mL) and filtered through CELITE®. The filtrate was washed with water (4×50 mL) and brine (2×50 mL), dried over MgSO4, and concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 120 g column eluting with 20-60% EtOAc/hexanes. Appropriate fractions were collected and concentrated in vacuo to give desired product (0.8592 g) as a white solid. Mixed fractions were combined and concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 80 g column eluting with 20-60% EtOAc/hexanes to give another crop of desired product (0.1673 g) as a white solid.

reactant | methyl 6-hydroxy-1H-indole-2-carboxylate | 7.77 mmol, 1.4862 g | OC1=CC=C2C=C(NC2=C1)C(=O)OC | C10H9NO3
reactant | 1-bromo-2-methoxyethane | 7.77 mmol, 0.731 mL | BrCCOC | C3H7BrO
reactant | cesium carbonate | 7.77 mmol, 2.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 38.9 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Methyl 6-(2-methoxyethoxy)-1H-indole-2-carboxylate | 0.8592 g | COCCOC1=CC=C2C=C(NC2=C1)C(=O)OC | C13H15NO4
